US07576089B2
8-{5-[(Dimethylamino)methyl]pyridin-2-yl}-1,4-dioxaspiro[4,5]decan-8-ol
1-(6-Bromopyridin-3-yl)-N,N-dimethylmethanamine (1.15 g, 5.4 mmol) was dissolved in 30 mL of THF and 80 mL of anhydrous ether. After the solution was cooled to −78° C., 2.60 mL of n-butyllithium (2.5 M, 6.40 mmol) was slowly dropped through a syringe in 10 min. After being stirred at −78° C. for 30 minutes, 1,4-cyclohexanedione mono-ethylene ketal (1.01 g, 6.4 mmol) was added. The reaction mixture was allowed to warm up to room temperature during two hours and then quenched by addition of 10 mL of water. The mixture was extracted twice using EtOAc. The combined extracts were dried and concentrated. After flash column using 20-40% methanol in EtOAc and 0.5% NH4OH, 0.85 g oil was obtained (54% yield), MS: (M+H)+ 293.2.0.

reactant | 1-(6-Bromopyridin-3-yl)-N,N-dimethylmethanamine | 5.4 mmol, 1.15 g | BrC1=CC=C(C=N1)CN(C)C | C8H11BrN2
reactant | n-butyllithium | 6.40 mmol, 2.5 M, 2.60 mL | C(CCC)[Li]
reactant | 1,4-cyclohexanedione mono-ethylene ketal | 6.4 mmol, 1.01 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | ether | 80 mL | CCOCC | C4H10O
product | 8-{5-[(Dimethylamino)methyl]pyridin-2-yl}-1,4-dioxaspiro[4,5]decan-8-ol | 0.85 g, 54% yield | CN(C)CC=1C=CC(=NC1)C1(CCC2(OCCO2)CC1)O | C16H24N2O3
